US08486962B2
2-Bromo-1-m-tolyl-ethanone
To a solution of 1-m-tolyl-ethanone (6.0 g, 44.72 mmol) in dioxane (5 ml), bromine (7.14 g, 44.72 mmol) in dioxane (10 ml) and ether (15 ml) was added and stirred at room temperature for 5 hr. The reaction mixture was poured into ice water and the compound was extracted using ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate, filtered and then evaporated to give crude 2-bromo-1-m-tolyl-ethanone, 7.6 g (80%). The crude compound obtained was used in the next step without further purification.

reactant | 1-m-tolyl-ethanone | 44.72 mmol, 6.0 g | C1(=CC(=CC=C1)C(C)=O)C | C9H10O
reactant | bromine | 44.72 mmol, 7.14 g | BrBr | Br2
reactant | ether | 15 ml | CCOCC | C4H10O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-Bromo-1-m-tolyl-ethanone | BrCC(=O)C=1C=C(C=CC1)C | C9H9BrO
